US04581356
A mixture of 6-(2-hydroxyiminopropionyl)-1-methyl-2-oxo-1,2,3,4-tetrahydroquinoline (1 g), thiosemicarbazide (0.48 g), methanol (10 ml), water (5 ml) and acetic acid (0.1 ml) was refluxed for 13 hours with stirring. After cooling, the resulting precipitates were collected by filtration, washed successively with ethanol, water and ethanol, and then dried to give 0.34 g of 6-(2-hydroxyimino-1-thiosemicarbazonopropyl)-1-methyl-2-oxo-1,2,3,4-tetrahydroquinoline.

reactant | 6-(2-hydroxyiminopropionyl)-1-methyl-2-oxo-1,2,3,4-tetrahydroquinoline | 1 g | ON=C(C(=O)C=1C=C2CCC(N(C2=CC1)C)=O)C | C13H14N2O3
reactant | thiosemicarbazide | 0.48 g | NNC(=S)N | CH5N3S
reactant | methanol | 10 ml | CO | CH4O
reactant | water | 5 ml | O | H2O
solvent | acetic acid | 0.1 ml | C(C)(=O)O | C2H4O2
product | 6-(2-hydroxyimino-1-thiosemicarbazonopropyl)-1-methyl-2-oxo-1,2,3,4-tetrahydroquinoline | 0.34 g | ON=C(C(=NNC(=S)N)C=1C=C2CCC(N(C2=CC1)C)=O)C | C14H17N5O2S
